US07507736B2
[6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-cyclopropanesulfonyl-piperazin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride (example 1, intermediate a) and cyclopropylsulfonyl-piperazine (prepared in analogy to International Patent Application Publ. No. WO 2003/064413 by using cyclopropylsulfonyl chloride and tert-butyl 1-piperazinecarboxylate) to afford the title compound as a light-yellow solid (62%).

reactant | 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride | Cl.BrC1=C(C=C2C=C(NC2=C1)C(=O)O)OC1CCN(CC1)C(C)C
reactant | cyclopropylsulfonyl-piperazine | C1(CC1)S(=O)(=O)N1CCNCC1 | C7H14N2O2S
reactant | cyclopropylsulfonyl chloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | [6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-cyclopropanesulfonyl-piperazin-1-yl)-methanone | 62% | BrC1=C(C=C2C=C(NC2=C1)C(=O)N1CCN(CC1)S(=O)(=O)C1CC1)OC1CCN(CC1)C(C)C | C24H33BrN4O4S
